US04962096
A solution of 320 mg of sodium borohydride in 40 ml of ethanol was dropwise added to a solution of 680 mg of calcium chloride dihydrates in 20 ml of ethanol under chilling to -30° C. The resulting mixture was stirred at -30° C. for 30 minutes. To the mixture was added a solution of 2.37 g of 4-methoxycarbonyl-3-methyl-2-phenylthiazolidine in 10 ml of ethanol. The resulting mixture was stirred at 0° C. for 22 hours, and subsequently at room temperature for 1 hour. To the mixture was added 13 ml of 20% hydrochloric acid-ethanol solution. The resulting mixture was placed under reduced pressure to distill off the solvent. The residue was made alkaline by addition of 10 ml of conc. aqueous ammonia after addition of water. The aqueous mixture was extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate and placed under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (eluent: chloroform) to give 1.00 g of 4-hydroxymethyl-3 -methyl-2-phenylthiazolidine.

reactant | sodium borohydride | 320 mg | [BH4-].[Na+]
reactant | 4-methoxycarbonyl-3-methyl-2-phenylthiazolidine | 2.37 g | COC(=O)C1N(C(SC1)C1=CC=CC=C1)C | C12H15NO2S
reactant | hydrochloric acid ethanol | 13 ml | Cl.C(C)O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-hydroxymethyl-3 -methyl-2-phenylthiazolidine | 1.00 g | OCC1N(C(SC1)C1=CC=CC=C1)C | C11H15NOS
